### PR TITLE
feat: symmetrize outcome API

### PR DESCRIPTION
**Pull request by vihdzp**
We merge `IsLeftWin` and `IsRightWin` into a single `IsWin` predicate, and analogously for `IsLoss` and `IsDraw`.

- [x] depends on: #236

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/Outcome.lean [hunk 1]
```diff
@@ -15,256 +15,154 @@ We define when a loopy game is a win, a draw, or a loss with each player going f
...
+@[simp]
+theorem outcomeFor_eq_draw_iff {p : Player} {x : LGame} : outcomeFor p x = .draw ↔ IsDraw p x := by
+  aesop (add simp [outcomeFor, IsDraw])
+
+theorem StopperFor.not_isDraw {p : Player} {x : LGame} (h : StopperFor p x) : ¬ IsDraw p x := by
+  induction h with | @mk p x h IH
+  rintro ⟨hw, hl⟩
+  obtain ⟨y, hyx, hy⟩ := not_isLoss_iff_exists.mp hl
+  obtain ⟨z, hzy, hz⟩ := not_isLoss_iff_exists.mp (not_isWin_iff_forall.mp hw y hyx)
+  exact hz <| ((not_isDraw_iff.1 <| IH y hyx).resolve_left hy).isWin_of_mem_moves hzy
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Loopy/Outcome.lean]: You can combine the `induction` and `intro` calls while dropping the explicit `mk` call, since you don't need `rintro` and `obtain`.

```suggestion
theorem StopperFor.not_isDraw {p : Player} {x : LGame} (h : StopperFor p x) : ¬ IsDraw p x :=
  h.rec fun _h IH ⟨hw, hl⟩ ↦
    have ⟨y, hyx, hy⟩ := not_isLoss_iff_exists.mp hl
    have ⟨_, hzy, hz⟩ := not_isLoss_iff_exists.mp (not_isWin_iff_forall.mp hw y hyx)
    hz <| ((not_isDraw_iff.1 <| IH y hyx).resolve_left hy).isWin_of_mem_moves hzy
```
